US06596731B2
2-(3,4-Dimethoxy-phenyl)-6-methyl-imidazo[1,2-a]pyridine
The title compound, MS: m/e=269.2 (M+H+), was prepared in accordance with the general method of example 8 from 5-methyl-pyridin-2-ylamine and 2-bromo-1-(3,4-dimethoxy-phenyl)-ethanone.

reactant | 5-methyl-pyridin-2-ylamine | CC=1C=CC(=NC1)N | C6H8N2
reactant | 2-bromo-1-(3,4-dimethoxy-phenyl)-ethanone | BrCC(=O)C1=CC(=C(C=C1)OC)OC | C10H11BrO3
product | 2-(3,4-Dimethoxy-phenyl)-6-methyl-imidazo[1,2-a]pyridine | COC=1C=C(C=CC1OC)C=1N=C2N(C=C(C=C2)C)C1 | C16H16N2O2
